US08012966B2
2-(6-Methoxy-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 25 with 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 6-methoxy-1,3-dihydro-indol-2-one (prepared according to Journal of Organic Chemistry, 70(5), 1828-1834, 2005) starting materials to give 2-(6-methoxy-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (51 mg, 61.8%) as an orange solid.

reactant | 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCCC2)=O)C=O | C16H23N3O2
reactant | 6-methoxy-1,3-dihydro-indol-2-one | COC1=CC=C2CC(NC2=C1)=O | C9H9NO2
product | 2-(6-methoxy-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 51 mg, 61.8% | COC1=CC=C2C(C(NC2=C1)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCCCC1)=O)C | C25H30N4O3
